* models.lib -- 1N4148 pair (Nexperia parameter values) and a behavioural
* op-amp whose GBW is a parameter. Numbers only from Distortion.md S8;
* Nexperia's comment text is not reproduced.
.subckt 1N4148 1 2
Rrev 1 2 5.827E+9
D1   1 2 D1N4148_nexperia
.model D1N4148_nexperia D
+ IS=4.352E-9 N=1.906 BV=110 IBV=0.0001 RS=0.6458
+ CJO=7.048E-13 VJ=0.869 M=0.03 FC=0.5 TT=3.48E-9
.ends

.param pi=3.14159265358979
.param aol=1e5 gbw=3.2e5 vsat=0.5
.subckt opgbw inp inn out vcc vee
G1 0 n1 inp inn 1m
R1 n1 0 {aol/1m}
C1 n1 0 {1m/(2*pi*gbw)}
B1 out 0 V = max(min(V(n1), V(vcc)-vsat), V(vee)+vsat)
.ends
